US08124768B2
Preparation 12D: (3-(4-(2-(Benzhydrylamino)-3-chloropyridin-4-yloxy)-3-fluorophenylcarbamoyl)-5-(4-fluorophenyl)-4-oxopyridin-1(4H)-yl)methyl 1-methylpiperidine-4-carboxylate
To a mixture of (3-(4-(2-(benzhydrylamino)-3-chloropyridin-4-yloxy)-3-fluorophenylcarbamoyl)-5-(4-fluorophenyl)-4-oxopyridin-1(4H)-yl)methyl piperidine-4-carboxylate (60 mg, 0.077 mmol), formaldehyde (37% in water, 0.08 mL, 0.077 mmol) and acetic acid (0.03 mL, 0.077) in acetonitrile (2 mL) at rt was added, NaCNBH3 (50 mg, 0.8 mmol). The resulting mixture was stirred for 30 min. The solvent was removed in vacuo and the crude product residue was used directly in the next step without further purification.

reactant | (3-(4-(2-(benzhydrylamino)-3-chloropyridin-4-yloxy)-3-fluorophenylcarbamoyl)-5-(4-fluorophenyl)-4-oxopyridin-1(4H)-yl)methyl piperidine-4-carboxylate | 0.077 mmol, 60 mg | N1CCC(CC1)C(=O)OCN1C=C(C(C(=C1)C1=CC=C(C=C1)F)=O)C(NC1=CC(=C(C=C1)OC1=C(C(=NC=C1)NC(C1=CC=CC=C1)C1=CC=CC=C1)Cl)F)=O | C43H36ClF2N5O5
reactant | formaldehyde | 0.077 mmol, 0.08 mL | C=O | CH2O
reactant | acetic acid | 0.03 mL | C(C)(=O)O | C2H4O2
reactant | NaCNBH3 | 0.8 mmol, 50 mg | [BH3-]C#N.[Na+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | (3-(4-(2-(Benzhydrylamino)-3-chloropyridin-4-yloxy)-3-fluorophenylcarbamoyl)-5-(4-fluorophenyl)-4-oxopyridin-1(4H)-yl)methyl 1-methylpiperidine-4-carboxylate | CN1CCC(CC1)C(=O)OCN1C=C(C(C(=C1)C1=CC=C(C=C1)F)=O)C(NC1=CC(=C(C=C1)OC1=C(C(=NC=C1)NC(C1=CC=CC=C1)C1=CC=CC=C1)Cl)F)=O | C44H38ClF2N5O5
